### PR TITLE
[Merged by Bors] - feat(Matrix): spectrum and spectral radius are invariant under transpose

### PR DESCRIPTION
**Pull request by mkaratarakis**
spectrum K Aᵀ = spectrum K A for a matrix over a field, and the same for the spectral radius. Split off from #39914 so it can be reviewed on its own

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

@or4nge19

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean [hunk 1]
```diff
@@ -80,6 +85,11 @@ The weaker direction is true in nontrivial rings (see `Matrix.mem_spectrum_of_is
 theorem mem_spectrum_iff_isRoot_charpoly {r : K} : r ∈ spectrum K A ↔ IsRoot A.charpoly r := by
   simp [mem_spectrum_iff_not_isUnit_eval_charpoly]
 
+/-- A matrix and its transpose have the same spectrum. -/
+theorem spectrum_transpose (A : Matrix n n K) : spectrum K A.transpose = spectrum K A := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean]:
```suggestion
@[simp] theorem spectrum_transpose (A : Matrix n n K) : spectrum K Aᵀ = spectrum K A := by
```

File: Mathlib/Analysis/Matrix/Spectrum.lean [hunk 2]
```diff
@@ -46,6 +46,14 @@ theorem spectrum_toLpLin [DecidableEq n] (p : ENNReal) :
 theorem spectrum_toEuclideanLin [DecidableEq n] : spectrum 𝕜 (toEuclideanLin A) = spectrum 𝕜 A :=
   spectrum_toLpLin 2
 
+variable {K : Type*} [NormedField K]
+
+/-- The spectral radii of a matrix and its transpose are equal. See `Matrix.spectrum_transpose`. -/
+theorem spectralRadius_transpose [DecidableEq n] (A : Matrix n n K) :
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Spectrum.lean]:
```suggestion
@[simp] theorem spectralRadius_transpose [DecidableEq n] (A : Matrix n n K) :
```

File: Mathlib/Analysis/Matrix/Spectrum.lean [hunk 3]
```diff
@@ -46,6 +46,14 @@ theorem spectrum_toLpLin [DecidableEq n] (p : ENNReal) :
...
+    spectralRadius K Aᵀ = spectralRadius K A := by
+  unfold spectralRadius
+  rw [spectrum_transpose A]
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Spectrum.lean]: I think this proof can become something like `simp [spectralRadius]` once you attribute the other one with `simp`.

**Review by themathqueen — COMMENTED** [review]
Also, please merge master and resolve the conflict.

File: Mathlib/Analysis/Matrix/Spectrum.lean [hunk 4]
```diff
@@ -41,6 +41,13 @@ theorem spectrum_toLpLin [DecidableEq n] (p : ENNReal) :
     spectrum 𝕜 (toLpLin p p A) = spectrum 𝕜 A :=
   AlgEquiv.spectrum_eq (Matrix.toLinAlgEquiv (PiLp.basisFun p 𝕜 n)) _
 
+variable {K : Type*} [NormedField K]
+
+/-- The spectral radii of a matrix and its transpose are equal. See `Matrix.spectrum_transpose`. -/
+@[simp] theorem spectralRadius_transpose [DecidableEq n] (A : Matrix n n K) :
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Spectrum.lean:47]: can you put the variable in the theorem instead of declaring it for the whole section?

**Comment by mkaratarakis** [comment]
-awaiting-author

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean [hunk 5]
```diff
@@ -21,6 +24,8 @@ In fields we show that:
   of the matrix.
 * `Matrix.trace_eq_sum_roots_charpoly_of_splits`: the trace is the sum of the roots of the
   characteristic polynomial if the polynomial splits in the field of the matrix.
+* `Matrix.spectrum_transpose`: a matrix and its transpose have the same spectrum
+  (`Matrix.spectralRadius_transpose` is in `Analysis.Matrix.Spectrum`).
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean]:
```suggestion
  (`Matrix.spectralRadius_transpose` is in `Mathlib/Analysis/Matrix/Spectrum.lean`).
```

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean [hunk 6]
```diff
@@ -80,6 +85,11 @@ The weaker direction is true in nontrivial rings (see `Matrix.mem_spectrum_of_is
 theorem mem_spectrum_iff_isRoot_charpoly {r : K} : r ∈ spectrum K A ↔ IsRoot A.charpoly r := by
   simp [mem_spectrum_iff_not_isUnit_eval_charpoly]
 
+/-- A matrix and its transpose have the same spectrum. -/
+@[simp] theorem spectrum_transpose (A : Matrix n n K) : spectrum K Aᵀ = spectrum K A := by
+  ext μ
+  rw [mem_spectrum_iff_isRoot_charpoly, mem_spectrum_iff_isRoot_charpoly, charpoly_transpose]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean]:
```suggestion
  ext; simp [mem_spectrum_iff_isRoot_charpoly]
```

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean [hunk 7]
```diff
@@ -8,10 +8,13 @@ module
 public import Mathlib.Algebra.Algebra.Spectrum.Basic
 public import Mathlib.Algebra.Polynomial.Basic
 public import Mathlib.FieldTheory.IsAlgClosed.Basic
+public import Mathlib.LinearAlgebra.Matrix.Charpoly.Basic
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean]:
```suggestion
```

I'm pretty sure this is already imported transitively.

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

**Comment by themathqueen** [comment]
lol merge and delegated at almost the same time 😅

**Comment by ADedecker** [comment]
bors merge
